US05068355
Acetic anhydride (75 μL, 1.75 mmol) was dissolved in 2 mL of anhydrous methylene chloride and stirred for 2 minutes at 0° C. under nitrogen. To this stirred mixture was added boron trifluoride etherate (185 μL, 1.5 mmol), followed by the addition of 1.5 mmol 2,5-dithienylpyrrole in 1 mL of anhydrous methylene chloride. The resultant dark green solution was stirred at 0° C. for 15 minutes and room temperature for 1 hour. The solution was diluted with chloroform (50 mL) and washed four times with water (10 mL), twice with saturated sodium bicarbonate (10 mL), and finally twice with water (10 mL). The organic phase was evaporated and the residue was chromatographed on a silica gel column (50 g). Elution with 30% ethyl acetane in hexane gave 93 mg (68%) of 3-acetyl-2,5-dithienylpyrrole.

reactant | Acetic anhydride | 1.75 mmol, 75 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | boron trifluoride etherate | 1.5 mmol, 185 μL | B(F)(F)F.CCOCC
reactant | 2,5-dithienylpyrrole | 1.5 mmol | S1C(=CC=C1)C=1NC(=CC1)C=1SC=CC1 | C12H9NS2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-acetyl-2,5-dithienylpyrrole | 93 mg, 68% | C(C)(=O)C1=C(NC(=C1)C=1SC=CC1)C=1SC=CC1 | C14H11NOS2
